US09193723B2
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(piperidin-1-ylcarbonyl)benzamide
The title compound was prepared as described in Example 1A, substituting piperidine for 3-methylbutan-1-amine and 4-(imidazo[1,2-a]pyridin-7-ylmethylcarbamoyl)benzoic acid for 4-nitrobenzoic acid. 1H NMR (500 MHz, DMSO-d6) δ ppm 9.18 (t, J=5.9 Hz, 1H), 8.49 (d, J=7.0 Hz, 1H), 7.96 (m, 2H), 7.89 (s, 1H), 7.52 (d, J=1.2 Hz, 1H), 7.47 (m, 2H), 7.40 (s, 1H), 6.86 (dd, J=7.0, 1.7 Hz, 1H), 4.52 (d, J=5.9 Hz, 2H), 3.59 (m, 2H), 3.24 (m, 2H), 1.66-1.38 (m, 6H); MS (ESI(+)) m/e 363 (M+H)+.

reactant | 3-methylbutan-1-amine | CC(CCN)C | C5H13N
reactant | 4-(imidazo[1,2-a]pyridin-7-ylmethylcarbamoyl)benzoic acid | N=1C=CN2C1C=C(C=C2)CNC(=O)C2=CC=C(C(=O)O)C=C2 | C16H13N3O3
reactant | 4-nitrobenzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(piperidin-1-ylcarbonyl)benzamide | N=1C=CN2C1C=C(C=C2)CNC(C2=CC=C(C=C2)C(=O)N2CCCCC2)=O | C21H22N4O2
